US08304036B2
11.0 g (27.9 mmol) of triisopropyl-(4-selenophen-2-ylphenoxy)silane are initially introduced in 200 ml of diethyl ether, and 20 ml (31.8 mmol, 15% soln. in hexane) of n-BuLi are metered in rapidly. The mixture is heated under reflux for 30 min and subsequently cooled to −70° C. 15.0 ml (0.15 mol) of N-formylmorpholine in 50 ml of diethyl ether are added, and the mixture is warmed to RT and stirred for 1 h. The mixture is added to water, and 2 N hydrochloric acid is added. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, toluene). 5-(4-Triisopropylsilanyloxyphenyl)selenophene-2-carbaldehyde is obtained as a red solid.

reactant | triisopropyl-(4-selenophen-2-ylphenoxy)silane | 27.9 mmol, 11.0 g | C(C)(C)[Si](OC1=CC=C(C=C1)C=1[Se]C=CC1)(C(C)C)C(C)C | C19H28OSeSi
reactant | n-BuLi | 31.8 mmol, 20 ml | [Li]CCCC
reactant | N-formylmorpholine | 0.15 mol, 15.0 ml | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-(4-Triisopropylsilanyloxyphenyl)selenophene-2-carbaldehyde | C(C)(C)[Si](OC1=CC=C(C=C1)C1=CC=C([Se]1)C=O)(C(C)C)C(C)C | C20H28O2SeSi
